US06562853B2
To a mixture containing 430 g of methanol and 265 g of pyridine, under ice cooled conditions, 501.9 g of 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylic chloride {wherein the molar ratio of the (1R)-trans compound: (1R)-cis compound: (1S)-trans compound: (1S)-cis compound was 93.9:2.5:3.5:0.1} was added over 2.5 hours while stirring the reaction mixture. Subsequently, the reaction mixture was further stirred at room temperature over 4 hours. After concentrating the reaction mixture under reduced pressure to about half of its volume, the reaction mixture was eye-dropped into 500 ml of 3.5% hydrochloric acid. The resulting mixture was extracted 3 times with 200 ml of methyl-t-butyl ether and then concentrated to provide a residue. The resulting residue was distilled under reduced pressure (84 to 89° C./7 mmHg) to provide 426 g of methyl 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylate.

reactant | methanol | 430 g | CO | CH4O
reactant | 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylic chloride | 501.9 g | CC(=CC1C(C1C(=O)Cl)(C)C)C | C10H15ClO
solvent | pyridine | 265 g | N1=CC=CC=C1 | C5H5N
product | methyl 3-(2-methyl-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 426 g | CC(=CC1C(C1C(=O)OC)(C)C)C | C11H18O2
